US05234946
200 mg of 3-mercaptobenzaldehyde was dissolved in 6 ml of dimethylformamide, and 291 mg of 3-hydroxymethylbenzyl bromide and 402 mg of potassium carbonate were added. The mixture was stirred for 3 hours at room temperature. The solvent was evaporated, water and ethyl ether were added to the residue to extract it. The extract was worked up in a customary manner, and purified by silica gel column chromatography [Wakogel C-200, 10 g; eluting solvent: hexane/ethyl acetate=2/1] to give 190 mg (yield 51%) of 3-[3-(hydroxymethyl)benzylthio]benzaldehyde as a pale yellow oil.

reactant | 3-mercaptobenzaldehyde | 200 mg | SC=1C=C(C=O)C=CC1 | C7H6OS
reactant | 3-hydroxymethylbenzyl bromide | 291 mg | OCC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | potassium carbonate | 402 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-[3-(hydroxymethyl)benzylthio]benzaldehyde | 190 mg, yield 51% | OCC=1C=C(CSC=2C=C(C=O)C=CC2)C=CC1 | C15H14O2S
